* source BMS_V2
V_V1         N22536 N14639 4Vdc
V_V2         N14639 N26792 4Vdc
V_V3         N26792 0 4Vdc
V_V7         HIGH 0 5Vdc
R_R9         N267101 N22536  10 TC=0,0 
R_R10         N26778 N14639  10 TC=0,0 
R_R11         N52916 N26792  10 TC=0,0 
X_M25         N52916 N51698 0 NDS335N/FAI
X_M26         N26778 N51480 N26792 NDS335N/FAI
X_M27         N267101 N48782 N14639 NDS335N/FAI
R_R12         N48782 N22536  1Meg TC=0,0 
R_R13         N51480 N14639  1Meg TC=0,0 
R_R14         N51698 N26792  1Meg TC=0,0 
X_M28         N48782 HIGH 0 NDS335N/FAI
X_M29         N51480 HIGH 0 NDS335N/FAI
X_M30         N51698 HIGH 0 NDS335N/FAI
R_R15         A2 N22536  100Meg TC=0,0 
R_R16         A1 N14639  100Meg TC=0,0 
R_R17         A0 N26792  100Meg TC=0,0 
R_R18         0 A2  1Meg TC=0,0 
R_R19         0 A1  1Meg TC=0,0 
R_R20         0 A0  1Meg TC=0,0 
